US04752645
(E) 6-Chloro-1,3,4,5-tetrahydro-3-ethyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one
6-Chloro-1,3,4,5-tetrahydro-3-ethyl-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one (2.67 g, 6.88 mmole) and lithium bromide (3.05 g, 35.1 mmole) in dimethylformamide (40 ml) and water (2 drops) were heated at 130° C. for 4 hours. The cooled mixture was dissolved in ethyl acetate, washed with water, dried (magnesium sulfate), and concentrated. The residue was triturated with hexane to obtain 0.97 g of crude tan solid. Additional product was present in the mother liquor.

reactant | 6-Chloro-1,3,4,5-tetrahydro-3-ethyl-3-(methoxycarbonyl)-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 6.88 mmole, 2.67 g | ClC1=CC=CC2=C1CC(C(C(N2)=O)(C(=O)OC)CC)C2=CC=C(C=C2)OC | C21H22ClNO4
reactant | lithium bromide | 35.1 mmole, 3.05 g | [Br-].[Li+]
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
catalyst | water | 2 drops | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-1,3,4,5-tetrahydro-3-ethyl-4-(4-methoxyphenyl)-2H-1-benzazepin-2-one | 0.97 g | ClC1=CC=CC2=C1CC(C(C(N2)=O)CC)C2=CC=C(C=C2)OC | C19H20ClNO2
